US07345068B2
Pyridine (0.22 ml, 2.72 mmol) was added to a suspension of N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester (159 mg, 0.521 mmol), 2-naphthaleneboronic acid (186 mg, 1.08 mmol), molecular sieves 4A powder (204 mg) and copper (II) acetate (153 mg, 0.842 mmol) in methylene chloride (7 ml) and the mixture was stirred under air atmosphere (without argon) at room temperature for 16 hrs. The reaction mixture was diluted with ethyl acetate (30 ml) and the insoluble materials were filtered off (celite (Trade mark)) and washed with ethyl acetate. The filtrate and washings were combined and washed with 10% hydrochloric acid and brine in turn and then dried. The solvent was distilled off under reduced pressure. The resultant residue was purified by column chromatography on silica gel (n-hexane/ethyl acetate=10) to give N-trifluoroacetyl-3-(2-naphthyloxy)-L-phenylalanine ethyl ester (200 mg, 89%) as pale yellow crystals.

reactant | Pyridine | 2.72 mmol, 0.22 ml | N1=CC=CC=C1 | C5H5N
reactant | N-trifluoroacetyl-3-hydroxy-L-phenylalanine ethyl ester | 0.521 mmol, 159 mg | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)O)=O | C13H14F3NO4
reactant | 2-naphthaleneboronic acid | 1.08 mmol, 186 mg | C1=C(C=CC2=CC=CC=C12)B(O)O | C10H9BO2
solvent | methylene chloride | 7 ml | C(Cl)Cl | CH2Cl2
solvent | ethyl acetate | 30 ml | C(C)(=O)OCC | C4H8O2
catalyst | copper (II) acetate | 0.842 mmol, 153 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | N-trifluoroacetyl-3-(2-naphthyloxy)-L-phenylalanine ethyl ester | 200 mg, 89% | C(C)OC([C@@H](NC(C(F)(F)F)=O)CC1=CC(=CC=C1)OC1=CC2=CC=CC=C2C=C1)=O | C23H20F3NO4
